* source HW4_Q3_1_ECT
R_R1         N00227 N00236  220 TC=0,0 
R_R2         N00268 N00236  220 TC=0,0 
R_R3         0 N00268  2.2k TC=0,0 
R_R4         N00303 N00227  22k TC=0,0 
R_R5         N00303 N00315  22k TC=0,0 
R_R6         N00315 0  3.3k TC=0,0 
X_U1A         N00227 N00315 N00590 N00573 N00303 AD712/AD
X_U1B         N00227 N00268 N00560 N00554 N00236 AD712/AD
V_V1         N00560 0 15Vdc
V_V2         N00590 0 15Vdc
V_V3         0 N00554 15Vdc
V_V4         0 N00573 15Vdc
I_I1         N00227 0 DC 0Adc AC 1Aac 
