* source Q2
X_U1         N00157 N00234 N00494 N00490 N00234 OP-07
C_C1         N00164 N00157  5m  TC=0,0 
C_C2         N00330 N00164  1m  TC=0,0 
R_R1         0 N00157  10k TC=0,0 
R_R2         N00164 N00234  1k TC=0,0 
V_V1         N00330 0 DC 0Vdc AC 5Vac 
R_R3         0 N00234  10000k TC=0,0 
V_V2         N00494 0 15
V_V3         0 N00490 15Vdc
