* source Q3
X_U1         N00263 N00291 N00671 N00900 N00738 OP-07
X_U2         N00321 N00309 N00713 N00883 N00309 OP-07
C_C1         0 N00263  60.9n  TC=0,0 
C_C2         0 N00325  147n  TC=0,0 
C_C3         N00277 N00291  415n  TC=0,0 
C_C4         N00325 N00309  171n  TC=0,0 
R_R1         N00277 N00263  1k TC=0,0 
R_R2         N00309 N00277  1k TC=0,0 
R_R3         N00650 N00325  1k TC=0,0 
R_R4         N00325 N00321  1k TC=0,0 
R_R5         0 N00738  100000k TC=0,0 
V_V1         N00671 0 15Vdc
V_V2         0 N00900 15Vdc
V_V3         0 N00883 15Vdc
V_V4         N00713 0 15Vdc
V_V5         N00650 0 DC 0Vdc AC 1Vac 
