* source HW2_Q1(2)
R_R1         N00239 N00208  2.3k TC=0,0 
R_R2         0 V  1.9k TC=0,0 
C_C1         N00239 N00208  1.7u  TC=0,0 
C_C2         0 N00208  9.1u  TC=0,0 
C_C3         0 N00239  1u  TC=0,0 
L_L1         N00208 V  2.7mH  
I_I1         N00239 0 DC 0Adc AC 1Aac 
