* source HW01_Q03
V_V1         N00232 N00220 DC 0Vdc AC 2079Vac 0
V_V2         N00228 0 DC 0Vdc AC 2079Vac -120
V_V3         0 N00256 DC 0Vdc AC 2079Vac 120
L_L1         N00232 N00236  11.9mH  
L_L2         N00228 N00224  11.9mH  
L_L3         N00256 N00252  11.9mH  
R_R1         N00224 N00220  0.9 TC=0,0 
R_R2         N00236 N00240  0.9 TC=0,0 
R_R3         N00252 N00240  0.9 TC=0,0 
L_L4         N00376 N00356  3.97mH  
V_V4         N00376 0 DC 0Vdc AC 1200.3Vac -30
R_R4         N00356 N00859  0.3 TC=0,0 
V_V5         N00544 0 DC 0Vdc AC 1200.3Vac -150
R_R5         N00524 N01517  0.3 TC=0,0 
L_L5         N00544 N00524  3.97mH  
L_L6         N00664 N00644  3.97mH  
V_V6         N00664 0 DC 0Vdc AC 1200.3Vac 90
R_R6         N00644 N00872  0.3 TC=0,0 
I_I1         N00220 N00240 DC 0Adc  
I_I2         0 N00220 DC 0Adc  
           
.PRINT         AC 
+ VM([N00240],[N00220]) 
+ VP([N00240],[N00220])    
           
.PRINT         AC 
+ VM([N00220],[0]) 
+ VP([N00220],[0])    
           
.PRINT         AC 
+ VM([0],[N00240]) 
+ VP([0],[N00240])    
           
.PRINT         AC 
+ VM([N00859],[N01517]) 
+ VP([N00859],[N01517])    
           
.PRINT         AC 
+ VM([N01517],[N00872]) 
+ VP([N01517],[N00872])    
           
.PRINT         AC 
+ VM([N00872],[N00859]) 
+ VP([N00872],[N00859])    
I_I3         N01517 N00859 DC 0Adc  
I_I4         N00872 N01517 DC 0Adc  
