* source HW2_Q1
R_R1         N00124 V  900 TC=0,0 
R_R2         0 N00157  800 TC=0,0 
L_L1         0 V  13mH  
L_L2         N00157 N00124  24mH  
C_C1         0 N00124  1.2u  TC=0,0 
I_I1         N00157 0 DC 0Adc AC 1Aac 120
