* source HW01_Q03_2
V_V6         N03005 0 DC 0Vdc AC 1200.3Vac 90
V_V4         N02647 0 DC 0Vdc AC 1200.3Vac -30
V_V2         N03119 0 DC 0Vdc AC 2079Vac -120
L_L3         N02771 N02641  11.9mH  
V_V5         N02887 0 DC 0Vdc AC 1200.3Vac -150
L_L6         N03005 N03153  3.97mH  
R_R3         N02641 N02415  0.9 TC=0,0 
R_R5         N02893 N02899  0.3 TC=0,0 
R_R1         N02991 N02761  0.9 TC=0,0 
L_L4         N02647 N02521  3.97mH  
R_R6         N03153 N03215  0.3 TC=0,0 
L_L1         N02653 N02527  11.9mH  
R_R2         N02527 N02415  0.9 TC=0,0 
V_V3         0 N02771 DC 0Vdc AC 2079Vac 120
L_L2         N03119 N02991  11.9mH  
R_R4         N02521 N02385  0.3 TC=0,0 
V_V1         N02653 N02761 DC 0Vdc AC 2079Vac 0
L_L5         N02887 N02893  3.97mH  
V_PRINT2         N03537 N02385 0V
          
.PRINT        AC 
+ IM(V_PRINT2) 
+ IP(V_PRINT2)    
V_PRINT3         N03537 N02899 0V
          
.PRINT        AC 
+ IM(V_PRINT3) 
+ IP(V_PRINT3)    
V_PRINT4         N03537 N03215 0V
          
.PRINT        AC 
+ IM(V_PRINT4) 
+ IP(V_PRINT4)    
V_PRINT5         N03749 0 0V
          
.PRINT        AC 
+ IM(V_PRINT5) 
+ IP(V_PRINT5)    
V_PRINT6         N03749 N02415 0V
          
.PRINT        AC 
+ IM(V_PRINT6) 
+ IP(V_PRINT6)    
V_PRINT7         N03749 N02761 0V
          
.PRINT        AC 
+ IM(V_PRINT7) 
+ IP(V_PRINT7)    
