* source HW1_Q4_1
V_V4         N03922 0 DC 0Vdc AC 200Vac 0
R_R4         N03896 N03840  3 TC=0,0 
V_V5         N04042 0 DC 0Vdc AC 200Vac -120
R_R5         N04048 N040160  3 TC=0,0 
V_V6         N04108 0 DC 0Vdc AC 200Vac 120
R_R6         N04134 N04160  3 TC=0,0 
L_L4         N03922 N03896  10.6mH  
L_L6         N04108 N04134  10.6mH  
L_L5         N04042 N04048  10.6mH  
R_R7         N043501 N04738  30 TC=0,0 
L_L7         N05137 N043501  106mH  
L_L8         N05149 N044341  106mH  
R_R8         N044341 N04773  30 TC=0,0 
R_R9         N045181 N04868  30 TC=0,0 
L_L9         N05143 N045181  106mH  
C_C2         N04773 N04753  58.9u  TC=0,0 
C_C3         N04773 N04777  58.9u  TC=0,0 
C_C4         N05837 N046351  58.9u  TC=0,0 
R_R10         N04753 N04745  60 TC=0,0 
R_R11         N046351 N04738  60 TC=0,0 
R_R12         N04777 N04781  60 TC=0,0 
V_PRINT1         N03840 N04738 0V
          
.PRINT        AC 
+ IM(V_PRINT1) 
+ IP(V_PRINT1)    
V_PRINT2         N040160 N04773 0V
          
.PRINT        AC 
+ IM(V_PRINT2) 
+ IP(V_PRINT2)    
V_PRINT3         N04160 N04868 0V
          
.PRINT        AC 
+ IM(V_PRINT3) 
+ IP(V_PRINT3)    
V_PRINT4         N04738 N04745 0V
          
.PRINT        AC 
+ IM(V_PRINT4) 
+ IP(V_PRINT4)    
V_PRINT5         N04781 N04868 0V
          
.PRINT        AC 
+ IM(V_PRINT5) 
+ IP(V_PRINT5)    
V_PRINT6         N04868 N05837 0V
          
.PRINT        AC 
+ IM(V_PRINT6) 
+ IP(V_PRINT6)    
V_PRINT7         N05137 0 0V
          
.PRINT        AC 
+ IM(V_PRINT7) 
+ IP(V_PRINT7)    
V_PRINT8         N05149 0 0V
          
.PRINT        AC 
+ IM(V_PRINT8) 
+ IP(V_PRINT8)    
V_PRINT9         N05143 0 0V
          
.PRINT        AC 
+ IM(V_PRINT9) 
+ IP(V_PRINT9)    
