* source HW01_Q02
L_L1         N00245 0  8mH  
L_L2         N00226 0  18mH  
L_L3         N00219 0  16mH  
L_L4         N00293 0  25mH  
R_R1         N00219 N00226  200 TC=0,0 
R_R2         0 N00245  1k TC=0,0 
Kn_K1         L_L1 L_L2     0.5
Kn_K2         L_L3 L_L4     0.7
V_V1         N00287 0 DC 0Vdc AC 1Vac {p} 
R_R3         N00287 N00293  0.002 TC=0,0 
.PARAM  p=75
