* source HW1_Q2_C
R_R1         N01068 N01078  200 TC=0,0 
V_V1         N01048 0 DC 0Vdc AC 1Vac {p} 
R_R3         N01048 N01058  0.002 TC=0,0 
L_L2         N01078 0  18mH  
R_R2         0 N01088  1k TC=0,0 
Kn_K1         L_L1 L_L2     0.5
L_L1         N01088 0  8mH  
L_L4         0 N01058  102mH  
L_L5         N01601 N01058  14.571mH  
L_L6         N01068 0  18.545mH  
R_R4         N01601 N01068  0.002 TC=0,0 
.PARAM  p=75
